US06855722B2
f) (5-Methanesulfonyl-pyridin-3-yl)-propynoic acid ethyl ester
p-Toluenesulfonic acid monohydrate (1.39 g, 0.73 mmol) was added to a solution of 3-methanesulfonyl-5-triethoxyprop-1-ynyl-pyridine (1.20 g, 3.70 mmol) in toluene (40 mL). After stirring overnight at room temperature, the solvent was removed under reduced pressure. The crude product was chromatographed on silica (30% ethyl acetate/hexanes) to give the title compound (0.55 g, 53% yield) as a white solid. 1H NMR (CDCl3) δ 9.17 (d, 1H, J=2.4 Hz), 9.03 (d, 1H, J=2.0), 8.40 (t, 1H, J=2.0 Hz), 4.35 (q, 6H, J=8.0), 3.14 (s, 3H), 1.38 (t, 9H, J=8.0).

reactant | p-Toluenesulfonic acid monohydrate | 0.73 mmol, 1.39 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-methanesulfonyl-5-triethoxyprop-1-ynyl-pyridine | 3.70 mmol, 1.20 g | CS(=O)(=O)C=1C=NC=C(C1)C#CC(OCC)(OCC)OCC | C15H21NO5S
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (5-Methanesulfonyl-pyridin-3-yl)-propynoic acid ethyl ester | 0.55 g, 53% yield | C(C)OC(C#CC=1C=NC=C(C1)S(=O)(=O)C)=O | C11H11NO4S
